US05580986
N-[1-(4-Chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-nitro-5-pyrazolyl]-2,2,2-trifluoroacetamide
0.79 g (2.1 mmol) N-[1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-4-nitro-5-pyrazolyl]-2,2,2-trifluoroacetamide was suspended in 35 ml dichloromethane and treated with 0.17 ml sulfuryl chloride. The mixture was stirred for one hour at room temperature and concentrated.

reactant | N-[1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-4-nitro-5-pyrazolyl]-2,2,2-trifluoroacetamide | 2.1 mmol, 0.79 g | FC(OC1=CC(=NN1C)N1N=CC(=C1NC(C(F)(F)F)=O)[N+](=O)[O-])F | C10H7F5N6O4
reactant | sulfuryl chloride | 0.17 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | N-[1-(4-Chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-nitro-5-pyrazolyl]-2,2,2-trifluoroacetamide | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1NC(C(F)(F)F)=O)[N+](=O)[O-] | C10H6ClF5N6O4
